US03983111
A stirred solution of 2β-bromo-3α-hydroxy-5α-pregnane-11,20-dione (5.0 g.) in methanol (100 ml.) was treated at 0° with a solution of bromine (1 ml.) in methaol (30 ml.) at such a rate that the yellow colour disappeared before further addition of the bromine solution. The mixture was then poured into water and the precipitated solid was collected by filtration, washed with water and dried over P2O5 in vacuo. The resulting solid (5.0 g.) was purified by column chromatography (silica, EtOAc/ C6H6 1:2.5) to give crude 2β,21-dibromo-3α-hydroxy-5α-pregnane-11,20-dione (3,4 g.).

reactant | 2β-bromo-3α-hydroxy-5α-pregnane-11,20-dione | 5.0 g | Br[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C21H31BrO3
reactant | bromine | 1 ml | BrBr | Br2
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2β,21-dibromo-3α-hydroxy-5α-pregnane-11,20-dione | 3,4 g | Br[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CBr)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C21H30Br2O3
